US09193717B2
Step E: N-(2-((R)-5-(4-fluorobenzyl)-3-((R)-heptan-2-yl)-2,4-dioxooxazolidin-5-yl)-1H-benzo[d]imidazol-5-yl)methanesulfonamide
To a solution of (R)-ethyl 3-(4-fluorophenyl)-2-hydroxy-2-(5-(methylsulfonamido)-1H-benzo[d]imidazol-2-yl)propanoate (50 mg, 0.12 mmol) in THF (0.5 ml) at rt were added (R)-2-isocyanatoheptane (25 mg, 0.18 mmol) and NaOH (6 mg, 0.15 mmol). The mixture was heated at 70° C. for 25 min. The resulting mixture was filtered through a short plug of silica and concentrated. The resulting residue was purified by Combiflash (silica gel column, 5-35% ethyl acetate in hexane) to give the title product. LC/MS (m/z): 517.0 [M+1]; 1H NMR (400 MHz, CDCl3) δ 10.8-10.9 (d, 1H), 7.6 (t, 1H), 7.5 (s, 1H), 7.3 (m, 1H), 7.2 (m, 2H), 6.9 (m, 2H), 3.7-3.8 (m, 2H), 3.5 (d, 1H), 2.9 (s, 3H), 1.3 (q, 2H), 0.9-1.1 (m, 5H), 0.6-0.9 (m, 7H);

reactant | (R)-ethyl 3-(4-fluorophenyl)-2-hydroxy-2-(5-(methylsulfonamido)-1H-benzo[d]imidazol-2-yl)propanoate | 0.12 mmol, 50 mg | FC1=CC=C(C=C1)C[C@](C(=O)OCC)(C1=NC2=C(N1)C=CC(=C2)NS(=O)(=O)C)O | C19H20FN3O5S
reactant | (R)-2-isocyanatoheptane | 0.18 mmol, 25 mg | N(=C=O)[C@H](C)CCCCC | C8H15NO
reactant | NaOH | 0.15 mmol, 6 mg | [OH-].[Na+]
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | N-(2-((R)-5-(4-fluorobenzyl)-3-((R)-heptan-2-yl)-2,4-dioxooxazolidin-5-yl)-1H-benzo[d]imidazol-5-yl)methanesulfonamide | FC1=CC=C(C[C@]2(C(N(C(O2)=O)[C@H](C)CCCCC)=O)C2=NC3=C(N2)C=CC(=C3)NS(=O)(=O)C)C=C1 | C25H29FN4O5S
